US05840732
ii) Synthesis of 5-(4-phenylbutylidene)-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride
To a solution of 1.56 g (3.45 mmol) of 5-(4-phenyl-butylidene)-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione in 50 ml of methanol, 0.4 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 1.47 g (87%, light yellow foamy substance) of the desired product.

reactant | 5-(4-phenyl-butylidene)-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 3.45 mmol, 1.56 g | C1(=CC=CC=C1)CCCC=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C24H25N3O2S2
reactant | hydrochloric acid | 0.4 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 5-(4-phenylbutylidene)-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C1(=CC=CC=C1)CCCC=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | InChI=1S/C24H25N3O2S2.ClH/c28-23-20(12-5-4-11-19-9-2-1-3-10-19)31-24(29)27(23)16-6-7-18-30-22-14-8-13-21-25-15-17-26(21)22;/h1-3,8-10,12-15,17H,4-7,11,16,18H2;1H
